US08748613B2
2-Bromo-1-(4-chlorophenyl)ethanone (49.8 mg, 0.21 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate (70 mg, 0.21 mmol) in ethyl acetate (2 ml). The reaction was stirred at room temperature overnight (UPLC-MS: complete conversion). Et2O (1 ml) was added and the white precipitate was collected by suction filtration and dried under vacuum to obtain (3R)-1-(2-(4-chlorophenyl)-2-oxoethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (93.5 mg, 78% yield) as a white solid.

reactant | 2-Bromo-1-(4-chlorophenyl)ethanone | 0.21 mmol, 49.8 mg | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate | 0.21 mmol, 70 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H28N2O2
reactant | Et2O | 1 ml | CCOCC | C4H10O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(2-(4-chlorophenyl)-2-oxoethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 93.5 mg, 78% yield | [Br-].ClC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCCCC2)C2=CC=CC=C2)=O)=O | InChI=1S/C28H34ClN2O3.BrH/c29-24-11-9-21(10-12-24)25(32)19-31-17-13-22(14-18-31)26(20-31)34-28(33)27(23-7-3-1-4-8-23)30-15-5-2-6-16-30;/h1,3-4,7-12,22,26-27H,2,5-6,13-20H2;1H/q+1;/p-1/t22?,26-,27?,31?;/m0./s1
